US09376441B2
A mixture of tert-butyl 7-bromo-4-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (1.1 g, 3.36 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.28 g, 5 mmol), KOAc (1.3 g, 13.5 mmol), Pd(dppf).CH2Cl2 (137 mg, 0.168 mmol) was added dioxane (30 mL). The reaction was stirred at 100° C. for 2 day. Filtered, concentrated, and purified by flash chromatography eluted with 5% to 20% EtOAc/hexane to give 0.7, (55.6%) of tert-butyl 4-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate.

reactant | tert-butyl 7-bromo-4-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 3.36 mmol, 1.1 g | BrC1=CC=C2N(CCN(C2=C1)C(=O)OC(C)(C)C)C | C14H19BrN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5 mmol, 1.28 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 13.5 mmol, 1.3 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 0.168 mmol, 137 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 55.6% | CN1CCN(C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C20H31BN2O4
